US04032575
2 g of α-(3,4-dimethoxyphenethylaminomethyl)-3-benzyloxybenzylalcohol hydrochloride, 0.5 g of 10 % palladium-carbon, 100 ml of isopropanol and 15 ml of water are treated in the same manner as described in Example 1-(c). 1.45 g of α-(3,4dimethoxyphenethylaminomethyl)-3-hydroxybenzylalcohol hydrochloride are obtained. M.p. 161° -162° C.(recrystallized from a mixture of isopropanol and ether).

reactant | α-(3,4-dimethoxyphenethylaminomethyl)-3-benzyloxybenzylalcohol hydrochloride | 2 g | Cl.COC=1C=C(CCNCC(C2=CC(=CC=C2)OCC2=CC=CC=C2)O)C=CC1OC
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | water | 15 ml | O | H2O
product | α-(3,4dimethoxyphenethylaminomethyl)-3-hydroxybenzylalcohol hydrochloride | 1.45 g | Cl.COC=1C=C(CCNCC(C2=CC(=CC=C2)O)O)C=CC1OC | InChI=1S/C18H23NO4.ClH/c1-22-17-7-6-13(10-18(17)23-2)8-9-19-12-16(21)14-4-3-5-15(20)11-14;/h3-7,10-11,16,19-21H,8-9,12H2,1-2H3;1H
